US07977344B2
2-({2-[(1-Methylethyl)oxy]ethyl}oxy)-8-(methoxy)-9-(tetrahydro-2H-Pyran-2-yl)-9H-purin-6-amine
To methanol (120 ml) was added sodium (0.966 g). When the metal was dissolved, 8-bromo-2-({2-[(1-methylethyl)oxy]ethyl}oxy)-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine (5.69 g, 21.2 mmol) was added, heated to reflux and the solution stirred for 16 h, cooled to room temperature. The solvent was removed. Extracted with ethyl acetate after adding water, dried and concentrated to give the crude product which was purified through silica gel eluting with 2:1 ethyl acetate:petroleum ether to give the title compound (4.8 g).

reactant | sodium | 0.966 g | [Na] | Na
reactant | 8-bromo-2-({2-[(1-methylethyl)oxy]ethyl}oxy)-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 21.2 mmol, 5.69 g | BrC=1N(C2=NC(=NC(=C2N1)N)OCCOC(C)C)C1OCCCC1 | C15H22BrN5O3
reactant | methanol | 120 ml | CO | CH4O
product | 2-({2-[(1-Methylethyl)oxy]ethyl}oxy)-8-(methoxy)-9-(tetrahydro-2H-Pyran-2-yl)-9H-purin-6-amine | 4.8 g | CC(C)OCCOC1=NC(=C2N=C(N(C2=N1)C1OCCCC1)OC)N | C16H25N5O4
